US08084466B2
Step C: 4-[3-(6-Chloro-5-formyl-indol-1-yl)-propyl]-piperidine-1-carboxylic acid tert-butyl ester.
A mixture of 4-[3-(6-chloro-5-hydroxymethyl-indol-1-yl)-propyl]-piperidine-1-carboxylic acid tert-butyl ester (0.55 g, 1.35 mmol) and MnO2 (0.59 mg, 6.77 mmol) in toluene (10 mL) was heated at 100° C. for 30 min. The mixture was cooled to rt and filtered through diatomaceous earth. The filtrate was concentrated and used without further purification. MS: mass calcd. for C22H29ClN2O3, 404.19; m/z found, 405.4 [M+H]+.

reactant | 4-[3-(6-chloro-5-hydroxymethyl-indol-1-yl)-propyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.35 mmol, 0.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN1C=CC2=CC(=C(C=C12)Cl)CO | C22H31ClN2O3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 6.77 mmol, 0.59 mg | O=[Mn]=O
product | 4-[3-(6-Chloro-5-formyl-indol-1-yl)-propyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN1C=CC2=CC(=C(C=C12)Cl)C=O | C22H29ClN2O3
